US09108966B2
BCl3 (1M DCM solution, 2.5 mL, 2.5 mmol) was added dropwise to a solution of (2S,5R)-6-(benzyloxy)-2-(3-methyl-1,2,4-oxadiazol-5-yl)-1,6-diazabicyclo[3.2.1]octan-7-one (130 mg, 0.414 mmol) in dry DCM (12 mL) at −78° C. The mixture was stirred at −78° C. to 0° C. for 4 hrs. The reaction mixture was then quenched with MeOH (2 mL). The solvent was removed and the residue was purified by silica gel column chromatography (0 to 10% MeOH/DCM) to afford (2S,5R)-6-hydroxy-2-(3-methyl-1,2,4-oxadiazol-5-yl)-1,6-diazabicyclo[3.2.1]octan-7-one (30 mg, 32%).

reactant | BCl3 | 2.5 mmol, 1M, 2.5 mL | B(Cl)(Cl)Cl | BCl3
reactant | (2S,5R)-6-(benzyloxy)-2-(3-methyl-1,2,4-oxadiazol-5-yl)-1,6-diazabicyclo[3.2.1]octan-7-one | 0.414 mmol, 130 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NC(=NO2)C | C16H18N4O3
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | (2S,5R)-6-hydroxy-2-(3-methyl-1,2,4-oxadiazol-5-yl)-1,6-diazabicyclo[3.2.1]octan-7-one | 30 mg, 32% | ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NC(=NO2)C | C9H12N4O3
